* Schematics Netlist *



D_D2         $N_0001 $N_0002 D1N4148 
R_R2         $N_0002 $N_0003  1k  
D_D1         $N_0003 $N_0004 D1N4148 
R_R1         $N_0003 $N_0005  100k  
R_R6         0 $N_0004  100k  
R_R3         0 $N_0002  1k  
R_R4         $N_0001 $N_0005  1k  
R_R5         $N_0004 $N_0001  1k  
V_V1         $N_0005 0 DC -20  
